US09328061B2
Isatin and 5-methylisatin were purchased from Aldrich and used as received. 5-methoxyisatin was purchased from Oakwood and used as received. 4,6-Dibromoisatin was purchased from D-L Chiral Chemicals and was dissolved in methanol and copious purple solid impurities were removed by filtration. L-tert-Leucine was purchased from Chem-Impex and Boc protected prior to use. Magnesium Sulfate was purchased from Fisher and flame-dried under vacuum prior to use. Magnesium Bromide Diethyl Etherate (MgBr2 Et2O) was purchased from Aldrich and used as received. Methanol was purchased from Acros (99.8% anhydrous) and distilled at 1 atm from sodium metal prior to use or used as received. Potassium Carbonate was purchased from Fisher and dried at 80° C. under vacuum for 12 h prior to use. Pyrroidine was purchased from Aldrich and used as received. Sodium Borohydride was purchased from Aldrich and used as received. Sodium tert-Butoxide was purchased from Strem and used as received. Sodium Hydride (60 wt % in oil) was purchased from Strem and used as received. Sodium Periodate was purchased from Acros and used as received. Titanium Tetrachloride (TICl4) was purchased from Aldrich and used as received. Triethylamine was purchased from Aldrich and distilled from CaH2 prior to use. 2-(Trimethylsilyl)ethoxymethyl Chloride, technical grade (SEM-Cl) was purchased from Aldrich and used as received. p-Toluenesulfonic Acid Monohydrate was purchased from Aldrich and used as received. L-Valine Ethyl Ester Hydrochloride was purchased from Aldrich and used as received. Zinc tert-Butoxide was prepared by reaction of tert-butanol with diethylzinc. A flame-dried round bottom flask is purged with nitrogen, sealed with a septum and electrical tape, and charged with toluene (100 mL) and tert-butanol (1.8 mL, 19 mmol) by syringe. The solution is cooled to −78° C. and diethylzinc (Caution Pyrophoric!1.5 mL, 15 mmol) is added dropwise by syringe over 10 minutes. The reaction is allowed to warm to 22° C. and to stir for 18 h. The toluene is removed by distillation under nitrogen at 1 atm. and the resulting solid is dried under vacuum for 12 h. The solid is removed from the flask in a nitrogen-filled glovebox to afford 1.5 g (7.1 mmol, 46% yield) of a white powder.

reactant | Isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 5-methylisatin | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | 5-methoxyisatin | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
reactant | 4,6-Dibromoisatin | BrC1=C2C(C(NC2=CC(=C1)Br)=O)=O | C8H3Br2NO2
reactant | tert-butanol | 19 mmol, 1.8 mL | C(C)(C)(C)O | C4H10O
reactant | diethylzinc | 15 mmol, 1.5 mL | C(C)[Zn]CC
solvent | methanol | CO | CH4O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Zinc tert-Butoxide | CC(C)([O-])C.[Zn+2].CC(C)([O-])C | InChI=1S/2C4H9O.Zn/c2*1-4(2,3)5;/h2*1-3H3;/q2*-1;+2
